US07202245B2
8-Fluoro-4-(4-methoxy-benzylamino)-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
To a solution of 1.0 g of 4-chloro-8-fluoro-1-methoxy[1,2,4]triazolo[4,3-a]quinoxaline in DMF (12.0 mL) was added 1.36 g of 4-methoxybenzylamine. This solution was stirred at room temperature for 18 hrs. and then diluted with EtOAc and washed with water and saturated lithium chloride. The extracts were dried over sodium sulfate, filtered, and concentrated and the residue was separated by silica gel chromatography to give a yellow solid. This solid was dissolved in MeOH (15 mL) and 160 mg of 10% Pd/C and 0.96 g of cyclohexene were added. This mixture was heated at reflux for 18 hrs., filtered through a pad of diatomaceous earth, and concentrated to provide an off-white solid. MS (M+H)+=340.0.

reactant | 4-chloro-8-fluoro-1-methoxy[1,2,4]triazolo[4,3-a]quinoxaline | 1.0 g | ClC=1C=2N(C3=CC(=CC=C3N1)F)C(=NN2)OC | C10H6ClFN4O
reactant | 4-methoxybenzylamine | 1.36 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | cyclohexene | 0.96 g | C1=CCCCC1 | C6H10
solvent | DMF | 12.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 160 mg | [Pd] | Pd
product | 8-Fluoro-4-(4-methoxy-benzylamino)-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | FC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)NCC3=CC=C(C=C3)OC | C17H14FN5O2
